US09085517B2
4-[(3-chloro-4-cyanophenoxy)methyl]-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide
To a solution of 4-(bromomethyl)-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide (Preparation 1, 33 mg, 0.092 mmol) in DMSO (1 mL) was added 2-chloro-4-hydroxybenzonitrile (114 mg, 0.092 mmol) and K2CO3 (25 mg, 0.18 mmol). The reaction was stirred at room temperature for 16 hours. The reaction was diluted with DCM (10 mL) and water (20 mL). The organic layer was separated and the aqueous layer extracted with DCM (2×10 mL). The combined organic layers were filtered through a phase separation cartridge and reduced to dryness to give a yellow oil which was purified by reverse phase preparative HPLC to afford the title compound.

reactant | 4-(bromomethyl)-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide | 0.092 mmol, 33 mg | BrCC1=CC(=C(C(=O)NS(=O)(=O)N(C)C)C=C1F)F | C10H11BrF2N2O3S
reactant | 2-chloro-4-hydroxybenzonitrile | 0.092 mmol, 114 mg | ClC1=C(C#N)C=CC(=C1)O | C7H4ClNO
reactant | K2CO3 | 0.18 mmol, 25 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | 4-[(3-chloro-4-cyanophenoxy)methyl]-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide | ClC=1C=C(OCC2=CC(=C(C(=O)NS(=O)(=O)N(C)C)C=C2F)F)C=CC1C#N | C17H14ClF2N3O4S
